US05202441
N-Benzyl-N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-hydroxylamin
Following the procedure of Example 1, the title compound is prepared from 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-one oxime (3.7 g, 13 mmol) and benzyl bromide (2.4 g, 14 mmol) in a 50% yield to give 2.3 g of product as white crystals melting at 133° C. after recrystalization from ethanol.

reactant | 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-one oxime | 13 mmol, 3.7 g | C1(CCCCC1)ON1C(CC(CC1(C)C)=NO)(C)C | C15H28N2O2
reactant | benzyl bromide | 14 mmol, 2.4 g | C(C1=CC=CC=C1)Br | C7H7Br
product | N-Benzyl-N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-hydroxylamin | 50% yield | C(C1=CC=CC=C1)N(O)C1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C22H36N2O2
